US06034127
2-Chlorobenzenesulfonic acid 3-[[3-(N-hydroxy)amidinophenyl]methoxy]-5-methylphenyl ester hydrochloride
To a solution of 2-chlorobenzenesulfonic acid 3-[(3-cyanophenyl) methoxy]-5-methylphenyl ester (207 mg, 0.5 mmol), as prepared in step (a) of the Example 6, in methylene chloride (10 mL) was added 37% HCl in ethanol (10 mL) at 0° C. The mixture was allowed to stand at 0° C. for 3 days. The solvent was removed in vacuo and the residue was co-evaporated with methylene chloride several times. The residue was dissolved in ethanol (10 mL) and then treated with hydroxylamine hydrochloride (140 mg, 2.0 mmol) and Na2CO3 (106 mg, 1.0 mmol). The reaction mixture was stirred at room temperature for 2 days. Methylene chloride (150 mL) was added to the mixture, washed with 10% K2CO3 (2×50 mL), and dried over K2CO3. The solvent was removed in vacuo, HCl in methanol (30 mL) added and the solvent removed in vacuo. The residue was purified by flash chromatography (1:1 ethyl acetate/methylene chloride) to give the title compound as a white foam (95 mg, 39%). 1H-NMR (300 MHz, CDCl3) δ 2.25 (s, 3H), 4.89 (br s, 1H), 4.98 (d, 2H, J=10.7 Hz), 5.58 (br s, 1H), 6.15 (br s, 1H), 7.33-7.64 (m, 6H), 7.76-7.83 (m, 1H), and 7.92 (d, 1H, J=4.0 Hz). Mass spectrum (MALDI-TOF, sinapinic acid matrix) calcd. for C21H19N2O5SCl: 447.1 (M+H), 469.1 (M+Na). Found: 447.1, 469.2.

reactant | 2-chlorobenzenesulfonic acid 3-[(3-cyanophenyl) methoxy]-5-methylphenyl ester | 0.5 mmol, 207 mg | C(#N)C=1C=C(C=CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C21H16ClNO4S
reactant | HCl | Cl | ClH
reactant | hydroxylamine hydrochloride | 2.0 mmol, 140 mg | Cl.NO
reactant | Na2CO3 | 1.0 mmol, 106 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | Methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-Chlorobenzenesulfonic acid 3-[[3-(N-hydroxy)amidinophenyl]methoxy]-5-methylphenyl ester hydrochloride | 95 mg, 39% | Cl.ONC(=N)C=1C=C(C=CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | InChI=1S/C21H19ClN2O5S.ClH/c1-14-9-17(28-13-15-5-4-6-16(11-15)21(23)24-25)12-18(10-14)29-30(26,27)20-8-3-2-7-19(20)22;/h2-12,25H,13H2,1H3,(H2,23,24);1H
